US07217733B2
N-Boc-Homophenylalanine (5.00 g, 17.9 mmol) and 3-bromo-1-propanol (1.60 mL, 17.7 mmol) were dissolved in CH2Cl2 (25 mL) and the mixture was cooled to 0° C. A solution of N,N-dicyclohexylcarbodiimide (4.80 g, 23.3 mmol) and N,N-dimethylaminopyridine (0.23 g, 1.90 mmol) in CH2Cl2 (25 mL) was slowly added and the reaction was slowly warmed to room temperature and stirred for 12 hours. The dicyclohexylurea was filtered off and the mother liquor was concentrated and purified by flash chromatography (Hexane/EtOAc 8:2) affording N-Boc-Homophenylalanine 3-bromopropyl ester as a clear oil (5.64 g, 79%).

reactant | N-Boc-Homophenylalanine | 17.9 mmol, 5.00 g | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | 3-bromo-1-propanol | 17.7 mmol, 1.60 mL | BrCCCO | C3H7BrO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-Boc-Homophenylalanine 3-bromopropyl ester | 5.64 g, 79% | BrCCCOC([C@@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O | C18H26BrNO4
